US04590201
An 80° C. stirred solution of p-toluoyl chloride (10.0 g, 64.7 mmol) in chlorobenzene (15 ml) was treated in portions with aluminum chloride (8.63 g, 64.7 mmol) over 20 minutes. The mixture was stirred 15 hours at 80° C., cooled, and quenched by addition of ice-water and concentrated hydrochloric acid (10 ml). The mixture was extracted twice with diethyl ether and once with a small volume of dichloromethane. The combined extracts were washed with water, 10% (w/v) aqueous sodium hydroxide, and water, dried over anhydrous magnesium sulfate, and evaporated to dryness under vacuum. The residue was dissolved in boiling n-hexane, treated with activated charcoal, and filtered hot. The filtrate was cooled and the product was collected by filtration and dried to provide 7.57 g (51%) of 4-(4-chlorobenzoyl) toluene, m.p. 122°-123° C.

reactant | p-toluoyl chloride | 64.7 mmol, 10.0 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | aluminum chloride | 64.7 mmol, 8.63 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 15 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(4-chlorobenzoyl) toluene | 7.57 g, 51% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C14H11ClO
